US04940710
1-Ethyl-6-fluoro-1,4-dihydro-7-[3-(hydroxymethyl)-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid, hydrochloride
A mixture of 2 g of 2-hydroxymethylpiperazine, 1 g of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid and 8 ml of pyridine was heated at 130° C. in a sealed bottle, under argon, overnight. The solvent was removed and the residue adsorbed onto silica gel, then added to a column of flash grade silica gel. The column was eluted with methanol:water (95:5). The product fraction was collected, dissolved in methanoldichloromethane and converted to the hydrochloride salt, mp >275° C.

reactant | 2-hydroxymethylpiperazine | 2 g | OCC1NCCNC1 | C5H12N2O
reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1 g | ClC1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C12H9ClFNO3
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 1-Ethyl-6-fluoro-1,4-dihydro-7-[3-(hydroxymethyl)-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid, hydrochloride | Cl.C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)CO)F)=O)C(=O)O | InChI=1S/C17H20FN3O4.ClH/c1-2-20-8-12(17(24)25)16(23)11-5-13(18)15(6-14(11)20)21-4-3-19-10(7-21)9-22;/h5-6,8,10,19,22H,2-4,7,9H2,1H3,(H,24,25);1H
